US06414148B1
Ethanolamine (2.44 g, 40 mmol) was added dropwise to a solution of diglycolic anhydride (2.32 g, 20 mmol) in pyridine (10 ml). The mixture was stirred for 5 minutes at ambient temperature and then heated at reflux for 2 hours. The volatiles were removed by evaporation and the residue was heated at 180° C. for 2 hours The reaction mixture was allowed to cool and was purified by column chromatography eluting with methylene chloride/methanol (9/1) to give 4-(2-hydroxyethyl)-3,5-dioxomorpholine (400 mg, 12.5%).

reactant | Ethanolamine | 40 mmol, 2.44 g | C(O)CN | C2H7NO
reactant | diglycolic anhydride | 20 mmol, 2.32 g | C1(COCC(=O)O1)=O | C4H4O4
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-(2-hydroxyethyl)-3,5-dioxomorpholine | 400 mg, 12.5% | OCCN1C(COCC1=O)=O | C6H9NO4
